US08211908B2
To a solution of 0.50 g of 1-tert-butyl 4-ethyl 4-(3-(2-oxo-1,7-naphthyridin-1(2H)-yl)propyl)piperidine-1,4-dicarboxylate in 3 mL of ethanol, 3.0 mL of a 4.0 mol/L hydrogen chloride/ethyl acetate solution was added, and the mixture was stirred at room temperature for 1 hour. Thereto was added 2.0 mL of a 4.0 mol/L hydrogen chloride/ethyl acetate solution, and the mixture was stirred at room temperature for 1 hour. The solid was filtered off to obtain 0.29 g of ethyl 4-(3-(2-oxo-1,7-naphthyridin-1(2H)-yl)propyl)piperidine-4-carboxylate hydrochloride as a light yellow solid.

reactant | 1-tert-butyl 4-ethyl 4-(3-(2-oxo-1,7-naphthyridin-1(2H)-yl)propyl)piperidine-1,4-dicarboxylate | 0.50 g | O=C1N(C2=CN=CC=C2C=C1)CCCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C24H33N3O5
reactant | hydrogen chloride ethyl acetate | 4.0 mol/L | Cl.C(C)(=O)OCC
reactant | hydrogen chloride ethyl acetate | 4.0 mol/L | Cl.C(C)(=O)OCC
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | ethyl 4-(3-(2-oxo-1,7-naphthyridin-1(2H)-yl)propyl)piperidine-4-carboxylate hydrochloride | 0.29 g | Cl.O=C1N(C2=CN=CC=C2C=C1)CCCC1(CCNCC1)C(=O)OCC | InChI=1S/C19H25N3O3.ClH/c1-2-25-18(24)19(8-11-20-12-9-19)7-3-13-22-16-14-21-10-6-15(16)4-5-17(22)23;/h4-6,10,14,20H,2-3,7-9,11-13H2,1H3;1H
